US07989444B2
Preparation 29: 1,1-dimethylethyl 2-thioxo-2,3,5,6,8,9-hexahydro-7H-[1,3]oxazolo[4,5-h][3]benzazepine-7-carboxylate
1,1-Dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (3.6 mmol) and potassium [(ethyloxy)carbonothioyl]sulfide (3.96 mmol) were suspended in pyridine (6 ml) and the reaction mixture was heated at 70° C. for 3 h. The solvent was removed under reduced pressure providing a crude product that after dissolution in ethyl acetate, washing with water and evaporation of the organic phase under reduced pressure gave the title compound as a yellow solid (2.5 mmol, 69% yield).

reactant | 1,1-Dimethylethyl 7-amino-8-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.6 mmol | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1O | C15H22N2O3
reactant | potassium [(ethyloxy)carbonothioyl]sulfide | 3.96 mmol | C(C)OC(=S)SC(=S)OCC.[K]
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl 2-thioxo-2,3,5,6,8,9-hexahydro-7H-[1,3]oxazolo[4,5-h][3]benzazepine-7-carboxylate | 2.5 mmol, 69% yield | S=C1OC2=CC3=C(CCN(CC3)C(=O)OC(C)(C)C)C=C2N1 | C16H20N2O3S
